US05700819
Sodium hydride (60% in oil, 220 mg, 5.5 mmol) was suspended in DMF (2 ml) and the suspension was stirred on a water bath. To the suspension was added dropwise a solution of 4,5,7-trifluoro-2-mercaptobenzothiazole (1.1 g, 5 mmol) in DMF (5 ml) under ice cooling and the mixture was stirred for 30 min. at room temperature and then cooled on a water bath. To the cooled mixture was added dropwise a solution of ethyl 5-bromopentanoate (1.05 g, 5 mmol) in DMF (3 ml) and the mixture was stirred for 2 hours at room temperature. The resultant mixture was diluted with water, then acidified with 7% hydrochloric acid and extracted with ethyl acetate. The organic layer was washed with an aqueous saturated saline solution, dried and then evaporated. The resulting residue was purified on a silica gel column to give 5-(4,5,7-trifluorobenzothiazol-2-ylthio)pentanoic acid ethyl ester (1.1 g, 64%) as an oil.

reactant | Sodium hydride | 5.5 mmol, 220 mg | [H-].[Na+]
reactant | 4,5,7-trifluoro-2-mercaptobenzothiazole | 5 mmol, 1.1 g | FC1=C(C=C(C2=C1N=C(S2)S)F)F | C7H2F3NS2
reactant | ethyl 5-bromopentanoate | 5 mmol, 1.05 g | BrCCCCC(=O)OCC | C7H13BrO2
reactant | hydrochloric acid | Cl | ClH
solvent | DMF | 2 ml | CN(C)C=O | C3H7NO
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
solvent | DMF | 3 ml | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 5-(4,5,7-trifluorobenzothiazol-2-ylthio)pentanoic acid ethyl ester | 1.1 g, 64% | C(C)OC(CCCCSC=1SC2=C(N1)C(=C(C=C2F)F)F)=O | C14H14F3NO2S2
